US06331538B1
1-(3-Chloro-4-fluorophenyl)-6-fluoro-3-hydroxy-7-(4-methylpiperazin-1-yl)-1H-quinazoline-2,4-dione;
1-(3-Chloro-4-fluorophenyl)-6-fluoro-3-hydroxy-7-(3-aminopyrrolidin-1-yl)-1H-quinazoline-2,4-dione, trifluoroacetate;

reactant | 1-(3-Chloro-4-fluorophenyl)-6-fluoro-3-hydroxy-7-(3-aminopyrrolidin-1-yl)-1H-quinazoline-2,4-dione | ClC=1C=C(C=CC1F)N1C(N(C(C2=CC(=C(C=C12)N1CC(CC1)N)F)=O)O)=O | C18H15ClF2N4O3
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
product | 1-(3-Chloro-4-fluorophenyl)-6-fluoro-3-hydroxy-7-(4-methylpiperazin-1-yl)-1H-quinazoline-2,4-dione | ClC=1C=C(C=CC1F)N1C(N(C(C2=CC(=C(C=C12)N1CCN(CC1)C)F)=O)O)=O | C19H17ClF2N4O3
